US08629137B2
Step 5: [2-(2-amino-3-fluoro-phenyl)-ethyl]-(1-benzyl-piperidin-4-yl)-amine
14.4 g (40.3 mmol) (1-benzyl-piperidin-4-yl)-[2-(3-fluoro-2-nitro-phenyl)-ethyl]-amine in 100 mL MeOH were stirred with 2.00 g rhodium charcoal (10%) and shaken at RT under a hydrogen atmosphere (3 bar). The catalyst was filtered off and the solvent was eliminated i. vac. The residue was further reacted immediately as the crude product.

reactant | (1-benzyl-piperidin-4-yl)-[2-(3-fluoro-2-nitro-phenyl)-ethyl]-amine | 40.3 mmol, 14.4 g | C(C1=CC=CC=C1)N1CCC(CC1)NCCC1=C(C(=CC=C1)F)[N+](=O)[O-] | C20H24FN3O2
solvent | MeOH | 100 mL | CO | CH4O
product | [2-(2-amino-3-fluoro-phenyl)-ethyl]-(1-benzyl-piperidin-4-yl)-amine | NC1=C(C=CC=C1F)CCNC1CCN(CC1)CC1=CC=CC=C1 | C20H26FN3
